Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],3.8452224818
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:7],1.89538710335
[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.80267597455
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][H:5],1.65916372968
[O:1]=[C:2]=[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[O:4]=[C:5][H:6],0.355682045748
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:1],7.63333262915
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],8.0794927
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],0.6792730912970001
[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-3.82937120126
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:11]([H:12])[H:13],1.99253997873
[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.1101182416599999
[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.81425281638
[H:1][C:2]([H:3])=[C:4][C:5]1([H:6])[C:7]([H:8])([H:9])[C:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:10]([H:6])[C:11]([C:5]=[C:7]([H:8])[H:9])([H:12])[H:13],-2.65042820567
[C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.0210755259900015
[H:1][O:2][C@@:3]1([H:4])[C:5][O:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][C:8]([H:9])([H:10])[H:11],0.999842543459
[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-2.72742065213
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.98999584657
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:4],2.61397968686
[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][O:2][C@:3]1([H:4])[C:5][C:6]([H:7])[C@@:8]1([H:9])[O:10][H:11],0.1583387531099999
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-8.79176262042
[O:1]([C:2][C:4]([H:3])([H:9])[H:10])[H:6].[O:5]=[C:7][H:8]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.61413950466
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-8.2335160712
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.27587315195
[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-1.30723817178
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],4.58178283651
[C:7][H:8].[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8],-7.92988146795
[H:10].[O:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.59644809329
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2][H:3],1.09007155142
